US06048868
EXAMPLE 44 ETDHCARBO7: 9-methoxy-1-ethyl-1,2,3,4,6,7,12,12b-octahydroindolo[2,3-a]quinolizin4-one
Sodium bicarbonate (500 mg) and palladium-on-charcoal are successively added to a solution of 9-methoxy-1-ethyl-2,3,4,6,7,12-hexahydroindolo[2,3-a]quinolizin-4-one (500 mg) in ethanol. and the mixture is stirred overnight under a hydrogen atmosphere. After filtration and evaporation of the solvent, the crude product is recrystallized from ethyl acetate. 9-Methoxy-I-ethyl-1,2,3 ,4,6,7,12,12b-octahydroindolo[2,3-a]quinolizin-4-one is thus recovered (76%).

reactant | Sodium bicarbonate | 500 mg | C([O-])(O)=O.[Na+]
reactant | 9-methoxy-1-ethyl-2,3,4,6,7,12-hexahydroindolo[2,3-a]quinolizin-4-one | 500 mg | COC=1C=C2C(=CC1)NC1=C2CCN2C(CCC(=C12)CC)=O | C18H20N2O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 9-methoxy-1-ethyl-1,2,3,4,6,7,12,12b-octahydroindolo[2,3-a]quinolizin4-one | COC=1C=C2C(=CC1)NC1=C2CCN2C(CCC(C12)CC)=O | C18H22N2O2
